Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
latex / Penicillins / Cipro / Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
Decreased vision
 
Major Surgical or Invasive Procedure:
Ocular Biopsy

 
History of Present Illness:
___ with history of myotonic dystrophy and cutaneous B-cell
lymphoma and PET-avid adenopathy without evidence of 
lymphomatous
nodal infiltration who is admitted for further management of
lymphomatous infiltration of his bilateral orbits. 

The patient has a history of decreased vision over the past 
three
months. He was last seen by his oncologist on ___ with plans for
6 month follow-up. He went to see his optometrist on ___ given
worsened visual acuity, and this was confirmed (OD ___, OS
___. He therefore saw an ophthalmologist, who noted proptosis
with periorbital edema, dilated temporal episcleral veins and
decreased vision. An MRI of the orbits was ordered given concern
for retro-orbital mass. This came back positive for findings
consistent with bilateral lymphomatous infiltration of his
orbits, and he was therefore sent to the ___ ED.

In the ED, initial VS were: 96.5 90 139/91 19 96% RA 
Labs were notable for:  no acute changes from prior
Imaging included:  None
Consults called:  rad/onc and neuro-onc
Recommendations:  6 mg IV dexamethasone q6h, formal consults to
follow but will likely need systemic chemo and radiation
Treatments received: 6 mg IV dex, 20 mg omeprazole, 4 mg IV
morphine
  
On arrival to the floor, patient endorses the above story as 
well
as sinus pressure that is not particularly bothersome. He thinks
his vision, especially in his right eye, is improving.  
 
Past Medical History:
- B cell lymphoma, cutaneous, as above
- chronic pain
- tobacco dependence
- pulmonary emphysema
- dysplipidemia
- ventricular premature contractions
- prehypertension
- myotonic dystrophy
- low testosterone
- chronic prostatitis
- BPH
 
Social History:
___
Family History:
- mother's sister with colon cancer
- sister with unknown type of gynecologic cancer
 
Physical Exam:
GENERAL: NAD  
HEENT:  EOMI, no pain with extraocular movements, visual fields
appear grossly intact, no oropharyngeal lesions, anicteric
sclera, some periocular edema greater on the right.
CARDIAC:  RRR
LUNG:   CTAB
ABD:  NT/ND, no organomegaly appreciated
EXT:  WWP,  no edema.
NEURO: Alert and oriented, CN except visual acuity intact,
sensation intact to light touch throughout, moves all four
extremities with purpose, strength intact
SKIN: no rash
 
Pertinent Results:
___

WBC: 7.0. RBC: 4.88. HGB: 15.8. HCT: 45.9. MCV: 94. RDW: 12.3.
Plt Count: 255. 
Na: 135. K: 4.3. Cl: 98. BUN: 20. Creat: 0.7. 
 
Brief Hospital Course:
___ with history of myotonic dystrophy and cutaneous B-cell
lymphoma with PET-avid nodes without evidence of lymphoma in
these nodes who is admitted for management of lymphomatous
infiltration of his bilateral orbits.

# Lymphomatous infiltration of orbits: Vision improved with IV
steroids.  
- dexamethasone 6 mg IV q6h, will switch to PO on discharge.
- omeprazole 20 mg daily
- artificial tears (home med)
- neuro-onc and rad-onc consulted; s/p mapping and radiation. 
- For pain, continued on PRN oxycodone and Tylenol for 
headaches.
- CT torso with pre-meds due to contrast allergy ordered for
staging.
- Ophthalmology consulted for biopsy as this is possibly a
different and more aggressive type of lymphoma than his previous
cutaneous. He was transferred to mass eye and ear ___ for biopsy
due to lack of necessary equipment being available here and
returned later in the day.
- Erythromycin ointment to eye per optho.
- Ice packs to eye that had biopsy.
- Follow up on biopsy pathology, preliminary read unclear.

# Myotonic dystrophy: Continued home meds

# Insomnia: Trazodone at home dose

# Dyslipidemia: Continued atorvastatin

# Depression: Continued venlafaxine

# Emphysema: Continued flovent, albuterol

# EMERGENCY CONTACT HCP: Patient stated that his mother was
previously his proxy but he does not wish for this to be the 
case
given her frailty. He has no other family or friends that he can
identify as HCP. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. clomiPHENE citrate 50 mg oral 3X/WEEK 
2. Atorvastatin 40 mg PO QPM 
3. Mexiletine 150 mg PO Q8H 
4. Gabapentin 300 mg PO TID 
5. Nabumetone 500 mg PO BID 
6. TraZODone 200 mg PO QHS 
7. Venlafaxine XR 150 mg PO DAILY 
8. Fluticasone Propionate 110mcg 2 PUFF IH BID 
9. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, wheeze 
10. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
11. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, wheeze 
2. Atorvastatin 40 mg PO QPM 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
5. Gabapentin 300 mg PO TID 
6. Mexiletine 150 mg PO Q8H 
7. TraZODone 200 mg PO QHS 
8. Venlafaxine XR 150 mg PO DAILY 
9. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
10. Acetaminophen 1000 mg PO Q8H:PRN Pain 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times a day 
Disp #*30 Tablet Refills:*0
11. Docusate Sodium 100 mg PO BID Constipation 
RX *docusate sodium [Stool Softener] 50 mg 2 capsule(s) by mouth 
twice a day Disp #*30 Capsule Refills:*0
12. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*7 
Capsule Refills:*0
13. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg 1 capsule(s) by mouth Q4 hour Disp #*12 
Capsule Refills:*0
14. Polyethylene Glycol 17 g PO BID:PRN Constipation 
RX *polyethylene glycol 3350 17 gram/dose 17gm gm by mouth twice 
a day Refills:*0
15. Senna 8.6 mg PO BID:PRN Constipation 
RX *sennosides 8.6 mg 8.6 mg by mouth twice a day Disp #*30 
Tablet Refills:*0
16. clomiPHENE citrate 50 mg oral 3X/WEEK 
17. Nabumetone 500 mg PO BID 
18. Erythromycin 0.5% Ophth Oint 0.5 in RIGHT EYE TID 
RX *erythromycin 5 mg/gram (0.5 %) 5 mg in the right eye three 
times a day Refills:*0
19. Dexamethasone 6 mg PO Q6H 
RX *dexamethasone 6 mg 1 tablet(s) by mouth four times a day 
Disp #*28 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ocular Lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 You presented to the hospital with decreased vision and were 
evaluated by opthamology and oncology, and started radiation for 
ocular lymphoma. You were sent home on pain medications, oral 
steroids, and a bowel regimen and will have close follow up with 
those services. 
 
Followup Instructions:
___